Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
Request for detox
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with a past medical history
noted of alcohol use disorder who presented with a request for
detox.

History somewhat unclear but he reports a longstanding history 
of
alcohol abuse. He has had periods of sobriety but relapsed ___
years ago and has been drinking regularly since. Over the past
few weeks he has been drinking ___ nips per day. 
On ___ he approached his family to ask for help to stop
drinking. He subsequently presented to the ED for detox.

His last drink was on ___ at 12pm. He has a history of
withdrawal but denies any history of seizures or ICU stays.

In the ED, labs were notable for ALT 251, AST 311, LD 427, and
tbili 2.1. Lipase was 427. Lactate was 3.3. EtOH level was 90.

He received 2L IV fluids, a total of 30mg PO diazepam over the
course of ___s 2mg of PO Ativan.

On the floor he feels that his withdrawal symptoms are
significantly improved. He denies any abdominal pain, though
endorsed RUQ when he was in the ED. He does endorse some
indigestion.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Alcohol use disorder
 
Social History:
___
Family History:
No known family history of alcoholism.
 
Physical Exam:
ADMISSION EXAM
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout. No tremor, no asterixis
PSYCH: pleasant, appropriate affect

Discharge exam:
CIWA ___ 0805 Temp: 98.0 PO BP: 127/90 HR: 77 RR: 18 O2 sat: 98%
O2 delivery: Ra 
GENERAL: sitting in bed.
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur.
RESP: Lungs Normal respiratory effort
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, slight tremor
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Admission labs:
___: WBC: 6.0
___: RBC: 4.15*
___: HGB: 14.2
___: HCT: 41.7
___: MCV: 101*
___: RDW: 12.3
___: Plt Count: 73* (Verified by smear-occ large plt
present)

___: Na: 140
___: K: 3.3*
___: Cl: 100
___: CO2: 26
___: BUN: 8
___: Creat: 0.9
___: Glucose: 105* (If fasting, 70-100 normal, >125
provisional diabetes)

'Basic Coagulation' sheet entries (Most Recent):
___: ___: 13.0*
___: INR: 1.2*
___: PTT: 26.7

___ - RUQ U/S: 
1. Coarsened and nodular liver echo-texture is without focal
lesions. 
2. Patent portal and hepatic veins. 
3. No sonographic evidence of cholecystitis. 

Hepatitis serologies:
___ 04:55PM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG

Discharge labs:
___ 09:11AM BLOOD WBC-6.3 RBC-4.05* Hgb-14.1 Hct-42.2 
MCV-104* MCH-34.8* MCHC-33.4 RDW-12.9 RDWSD-49.4* Plt ___
___ 09:11AM BLOOD ALT-198* AST-244* AlkPhos-77 TotBili-1.6*

 
Brief Hospital Course:
___ male with a past medical history noted of alcohol 
use disorder who presented with a request for detoxification.

# Alcohol withdrawal:
# Possible cirrhosis on imaging:
# Alcohol-induced gastritis

Presented for detox. No history of complicated withdrawal per 
his report. Monitored on CIWA protocol and telemetry for 72hrs 
following his last drink without major issues.  RUQ US 
suggestive of possible underlying cirrhosis. He was advised to 
f/u with his PCP and hepatology as an outpatient for further 
workup of RUQ U/S findings. He was discharged home on MVI, 
thiamine and folate. He was also discharged on oral PPI given 
reports of epigastric pain and concern for alcohol-induced 
gastritis. SW and CM followed the pt throughout his stay to help 
coordinate outpatient detox plan.

# Alcoholic hepatitis
He presented with transaminitis.  Hepatitis serologies were 
negative but showed hepatitis B immunity.  This is likely 
related to alcoholic hepatitis.  He was recommended to follow-up 
with outpatient hepatology once he is able to stabilize his 
medical care and find a primary care doctor and clarify his 
current insurance status.

# Elevated lactate, improved w/ hydration

# Thrombocytopenia, stable
Hepatitis serologies negative.  Likely related to bone marrow 
suppresson and alcohol abuse.

TRANSITIONAL ISSUES: 

Advised to remain sober and discussed multiple strategies for 
sobriety.
Hepatology follow up for cirrhosis - phone number given.

> 30 min spent on ___ planning, documentation and communication

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol abuse 
Abnormal LFTs
Thrombocytopenia
 
Discharge Condition:
Discharge condition–stable
Mental status–alert and oriented x3
Ambulatory 
 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital for management of 
detoxification from alcohol.  You were closely monitored for any 
signs of complications of alcohol withdrawal.  You were treated 
with oral Ativan for symptom control of your alcohol withdrawal. 
 You saw a social worker. 

We also found out that you may have some liver abnormalities.  

What should you do at home?
Go as recommended to start an alcohol treatment program.
Follow up with your pcp ___ 2 weeks, and then with a liver 
doctor (___)
 
Followup Instructions:
___